reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[O:3]([C:4]([C:5]#[N:6])([H:12])[H:13])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],50.19211707199521
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:12])([C:6](=[O:7])[H:13])([H:9])[H:10].[H:8][H:11],105.75458015346399
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]=[C:2]([C@@:3]([C:4](=[C:5]([H:11])[H:12])[H:9])([O:6][H:10])[H:8])[H:7],94.9150309745459
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([N+:7]#[C-:6])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],58.604351690982
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[C:7]([H:13])[C:6]([H:11])([H:12])[N:5]=[N:4]1)([H:8])([H:9])[H:10],49.47907119507111
[C:1]([O:2][H:15])([H:7])([H:8])[H:9].[C:3]1([H:10])([H:11])[C:4]([C:6]([H:16])([H:17])[H:18])([H:12])[C:5]1([H:13])[H:14]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],77.2533931681704
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[N:4](\[C:5]([H:15])([H:16])[H:17])=[C:6](/[O:7][H:12])[H:18],58.2266707340001
[N:1](=[C:2](/[O:3][H:7])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])\[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],27.335571912278407
[C:1]([C:2](=[C:3]=[C:4]([H:10])[H:11])[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:13]>>[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],29.36736096788411
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C@:5]1([O:6][H:13])[H:14])([H:7])([H:8])[H:9],48.8118913104235
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:4]([C:5]#[N:6])([H:7])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8],79.31058938473349
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])/[C:4]1=[C:5](/[O:6][H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],48.85418521029509
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],96.5510388558269
[C-:1]([N:2]([C+:3]([O:4][H:8])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],1.0180187085355072
[O:1]=[C:2]([C:3]#[N:4])[H:5]>>[O:1]=[C:2]([N+:4]#[C-:3])[H:5],42.453721849769
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([O:4][C:5]([N:6]([H:7])[H:13])([H:8])[H:12])([H:10])[H:11])[H:9],49.598581356621196
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1](/[C:5](=[C:4]1\[C@@:2]([C:6]#[C:7][H:13])([H:9])[C:3]1([H:10])[H:11])[H:12])[H:8],74.5469538062163
[N:1]([C:2]([C:3]#[N:4])([H:7])[H:8])([H:5])[H:6]>>[N:1]([C:2]([N+:4]#[C-:3])([H:7])[H:8])([H:5])[H:6],49.6019383168995
[N:1]#[C:2][C:3]([O:4][C:5]([O:6][H:7])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],58.828318609607514
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C+:2]([N:3]([H:10])[H:12])[N-:4][H:11])([H:7])([H:8])[H:9],40.259303214236496
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2]/[C:3]([N:4]([H:11])[H:12])=[C:5](\[O:6][H:9])[N:7]([H:13])[H:14])([H:8])[H:10],55.101588963484105
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:13])[C-:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C+:6]12>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],54.0673300120245
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])=[C:6]([H:10])[C:5]1=[O:4])[H:7],103.21975413988899
[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:14])[C@:3]2([H:11])[C@@:4]3([H:12])[C@:5]2([H:13])[C:6][C@@:7]13[H:15])([H:8])([H:9])[H:10],51.429606987633115
[C:1]([C:6](=[C:5]=[C:2]([C:3]#[C:4][H:11])[H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],97.55106506319039
